US08076336B2
(3,6-Dichloropyridazin-4-yl)diethylamine
3,4,6-Trichloropyridazine (2 g) and diethylamine (2.4 ml) were initially charged in toluene (10 ml) and left to stand at RT for 3 days. Then the mixture was admixed with water and EA, and the EA phase was removed. The EA phase was washed three times with water, dried over magnesium sulfate, filtered and concentrated. The residue was purified using silica gel (70 g cartridge, n-heptane/EA gradient 0-50% within 60 min). 1.1 g of the title compound were obtained.

reactant | 3,4,6-Trichloropyridazine | 2 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | diethylamine | 2.4 ml | C(C)NCC | C4H11N
reactant | water | O | H2O
reactant | EA | CC(OCC)=O | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (3,6-Dichloropyridazin-4-yl)diethylamine | 1.1 g | ClC=1N=NC(=CC1N(CC)CC)Cl | C8H11Cl2N3
